US07253286B2
Phenyl N-(3-chloropropyl)carbamate
3-Chloropropylaminehydrochloride (6.5 g, 50 mmol) was used for reaction in the same manner as Production Example 310-1, purification was performed by silica gel column chromatography (hexane/ethyl acetate system), the obtained crystals were suspended in diethyl ether and diluted with hexane, and the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (4.316 g, 20.20 mmol, 40.40%) as colorless crystals.

reactant | 3-Chloropropylaminehydrochloride | 50 mmol, 6.5 g | Cl.ClCCCN
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Phenyl N-(3-chloropropyl)carbamate | 20.20 mmol, 4.316 g, 40.40% | ClCCCNC(OC1=CC=CC=C1)=O | C10H12ClNO2
